US08426420B2
vi) 4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-3-fluoro-butyryl]-piperazine-1-carboxylic acid propyl ester
To a solution of 150 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 4 ml DMF were added 138 mg HATU, 124 l DIPEA and 100 mg 4-(2-Amino-3-fluoro-butyryl)-piperazine-1-carboxylic acid propyl ester. After stirring for 12 h saturated NaHCO3 solution (1.5 ml) was added and the mixture passed through a Chem Elute® cartridge eluting with DCM. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 150 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HATU | 138 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 124 l | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-Amino-3-fluoro-butyryl)-piperazine-1-carboxylic acid propyl ester | 100 mg | C(CC)OC(=O)N1CCN(CC1)C(C(C(C)F)N)=O | C12H22FN3O3
reactant | NaHCO3 | 1.5 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-3-fluoro-butyryl]-piperazine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCN(CC1)C(C(C(C)F)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C33H44FN7O7
